US04971982
573 mg of methanesulphonyl chloride were added to a stirred solution of 1.56 g of 2-[3-(4-cyanophenoxy)-2-hydroxy-3-methylbutyl]-6-methylpyridine N-oxide in 3 ml of triethylamine and 25 ml of dichloromethane at room temperature. After 1 hour a further 573 mg of methanesulphonyl chloride were added and the mixture was stirred until thin-layer chromatography indicated that the reaction was complete. The mixture was washed with dilute hydrochloric acid and 2M sodium hydroxide solution, dried over sodium sulphate and evaporated to give 1.8 g of 2-[3-(4-cyanophenoxy)-2-methanesulphonyloxy-3-methylbutyl]-6methylpyridine N-oxide.

reactant | methanesulphonyl chloride | 573 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[3-(4-cyanophenoxy)-2-hydroxy-3-methylbutyl]-6-methylpyridine N-oxide | 1.56 g | C(#N)C1=CC=C(OC(C(CC2=[N+](C(=CC=C2)C)[O-])O)(C)C)C=C1 | C18H20N2O3
reactant | methanesulphonyl chloride | 573 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-[3-(4-cyanophenoxy)-2-methanesulphonyloxy-3-methylbutyl]-6methylpyridine N-oxide | 1.8 g | C(#N)C1=CC=C(OC(C(CC2=[N+](C(=CC=C2)C)[O-])OS(=O)(=O)C)(C)C)C=C1 | C19H22N2O5S
